US06479424B1
Benz[f]indene (10.8 g, 0.065 mole) was dissolved in 100 mL of dimethylformamide. 1-Bromo-3,5-di-t-butylbenzene (14 g, 0.052 mole) was added along with palladium acetate (0.3 g), tri-o-tolylphosphine (0.8 g), and triethyl amine (11.0 g). The solution was heated to 60° C. for 3 days. The solution was cooled and washed with 1 N HCl and by saturated sodium bicarbonate. The product was found to be difficult to separate from the residual tri-o-tolylphosphine. After purifying by passing through silica with hexanes three times, and recrystallization from ethanol, followed by three recrystallizations from hexanes, it yielded 5.8 g of 2-(3,5-di-t-butylphenyl)benz[f]indene (26% yield). 1HNMR (CDCl3, 300 MHz δ7.95-7.77 (m, 4H); 7.52-7.37 (m, 5H); 7.23 (s, 1H); 3.99 (s, 2H); 1.43 (s, 18H).

reactant | Benz[f]indene | 0.065 mole, 10.8 g | C1=CCC=2C=C3C(=CC12)C=CC=C3 | C13H10
reactant | 1-Bromo-3,5-di-t-butylbenzene | 0.052 mole, 14 g | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
reactant | tri-o-tolylphosphine | 0.8 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethyl amine | 11.0 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(3,5-di-t-butylphenyl)benz[f]indene | 5.8 g, 26% yield | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C=1CC=2C=C3C(=CC2C1)C=CC=C3 | C27H30
